US04024139
Preparation of 8-chloro-4-methyl-2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b)(1,3)benzoxazin-10-one
40 g. of 2-methylbutyrolactone was converted to 45 g. of 4-chloro-2-methylbutryl chloride (b.p. 70°-72° C at 15 mm.) by the method detailed in Example 4. The acid chloride (15.5 g.) was reduced to the corresponding aldehyde, condensed with 5-chlorosalicylhydroxamic acid and the resulting intermediate was ring-closed according to the method described in Example 3. The product melted at 144°-146° C. after recrystallization from a mixture of trichloroethylene and hexane.

reactant | 2-methylbutyrolactone | CC1C(=O)OCC1 | C5H8O2
reactant | 4-chloro-2-methylbutryl chloride | ClCCC(C(=O)Cl)C | C5H8Cl2O
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
product | 8-chloro-4-methyl-2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b)(1,3)benzoxazin-10-one | ClC=1C=CC2=C(C(N3C(O2)C(CCO3)C)=O)C1 | C12H12ClNO3
